US08084448B2
B. 2-Trimethylsilanylethyl (4-amino-3-benzyloxyphenoxy)acetate
A mixture of 2-trimethylsilanylethyl (3-benzyloxy-4-nitrophenoxy)acetate (5.0 g) and 5% Pt/C (500 mg) in EtOAc (50 mL) is hydrogenated at 1 atm for 3 h. The catalyst is filtered off through Celite and the solvent removed under reduced pressure to afford the title compound: 1H NMR (CDCl3)δ 7.31 (m, 5H), 6.73 (d, J=8.6 Hz, 1H), 6.56 (d, J=2.8 Hz, 1H), 6.29 (dd, J=8.6, 2.8 Hz, 1H), 5.01 (s, 2H), 4.45 (s, 2H), 4.94 (m, 2H), 0.98 (m, 2H), 0.00 (s, 9H).

reactant | 2-trimethylsilanylethyl (3-benzyloxy-4-nitrophenoxy)acetate | 5.0 g | C(C1=CC=CC=C1)OC=1C=C(OCC(=O)OCC[Si](C)(C)C)C=CC1[N+](=O)[O-] | C20H25NO6Si
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pt/C | 500 mg | [Pt] | Pt
product | 2-Trimethylsilanylethyl (4-amino-3-benzyloxyphenoxy)acetate | NC1=C(C=C(OCC(=O)OCC[Si](C)(C)C)C=C1)OCC1=CC=CC=C1 | C20H27NO4Si
